US05003077
(a) Production of 2-Hydroxycycloheptimidazole
In accordance with the method described in Journal of the Americal Chemical Society, Vol. 76, pages 3352 to 3353 (1954), 60 g of 2-methylthiocycloheptimidazole, as obtained in Example 1-(c), was added to 300 ml of concentrated hydrochloric acid (hydrogen chloride content: 35%) and heated under reflux for 2 hours and 30 minutes. Next, 500 ml of ethanol was added and everything was stirred at room temperature, and then the crystals precipitated were separated by filtration. The crystals thus obtained were dissolved in 0.5 liter of water, and sodium hydrogencarbonate was added to adjust the pH thereof to about pH 7 or so. The crystals precipitated were separated by filtration, washed with water and then dried. 40 g of pale yellow crystals were obtained.

reactant | 2-methylthiocycloheptimidazole | 60 g | CSC=1N=C2C(N1)=CC=CC=C2 | C9H8N2S
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 0.5 liter | O | H2O
product | 2-Hydroxycycloheptimidazole | 40 g, Yield: 80.3% | OC=1N=C2C(N1)=CC=CC=C2 | C8H6N2O
